US06939885B2
Synthesis of N-[4-Chloro-2-(pyridine-4-carbonyl)-phenyl]-4-trifluoromethoxy-benzenesulfonamide
The title compound was prepared according to the general procedure for the synthesis of N-Aryl-benzenesulfonamides previously described using (2-amino-5-chloro-phenyl)-pyridin-4-yl-methanone and 4-Trifluoromethoxy-benzenesulfonyl chloride and purified by HPLC. 1H NMR (DMSO-d6): δ 6.90 (d, J=8.4 Hz, 1H), 7.50 (d, J=8.8 Hz, 2H), 7.49-7.61 (m, 4H), 7.66 (d, J=8.8 Hz, 2H), 8.81 (d, J=4.8 Hz, 2H), 10.26 (s, 1H). MS: M/z 456.9 (M++1).

reactant | (2-amino-5-chloro-phenyl)-pyridin-4-yl-methanone | NC1=C(C=C(C=C1)Cl)C(=O)C1=CC=NC=C1 | C12H9ClN2O
reactant | 4-Trifluoromethoxy-benzenesulfonyl chloride | FC(OC1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O3S
product | N-[4-Chloro-2-(pyridine-4-carbonyl)-phenyl]-4-trifluoromethoxy-benzenesulfonamide | ClC1=CC(=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)OC(F)(F)F)C(=O)C1=CC=NC=C1 | C19H12ClF3N2O4S
